US07199142B2
Step A: 3-Trifluoromethyl-4-(2-(S)-butoxy)benzonitrile
A solution of 1.1 g (5.9 mmol) of 4-fluoro-3-trifluoromethylbenzonitrile and 485 mg (6.5 mmol) of (S)-(+)-2-butanol in 10 mL of THF at −10° C. was treated with 235 mg (5.9 mmol) of sodium hydride. The resulting mixture was stirred cold for 2 h, then quenched with 10 mL of H2O. The quenched solution was extracted with 30 mL of Et2O, dried over MgSO4 and concentrated. Chromatography on a Biotage 40M cartridge using 4:1 v/v hexanes/EtOAc as the eluant afforded 550 mg of the title compound: 1H NMR (500 Mhz) δ 0.99 (t, J=7.6, 3H), 1.35 (d, J=6.2, 3H), 1.58–1.83 (m, 2H), 4.51 (septet, 1H), 7.04 (d, J=8.7, 1H), 7.75 (d, J=8.7, 1H), 7.85 (s, 1H).

reactant | 4-fluoro-3-trifluoromethylbenzonitrile | 5.9 mmol, 1.1 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | (S)-(+)-2-butanol | 6.5 mmol, 485 mg | C[C@@H](CC)O | C4H10O
reactant | sodium hydride | 5.9 mmol, 235 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Trifluoromethyl-4-(2-(S)-butoxy)benzonitrile | 550 mg | FC(C=1C=C(C#N)C=CC1O[C@@H](C)CC)(F)F | C12H12F3NO
